US06548493B1
tert-butyl (6aS,10aR)-2-(3-chloro-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 3-chloro-2-methylphenylboronic acid (140 mg, 1.0 mmol) to afford after chromatographic purification the title compound (99 mg, 47%). 1H NMR (CDCl3, 300 MHz) δ7.28-7.31 (m, 1H), 7.10 (d, 2H, J=4.4 Hz), 6.85 (s, 1H), 6.81 (s, 1H), 3.82-4.24 (m, 2H), 3.64-3.74 (m, 1H), 3.24-3.54 (m, 4H), 2.86-3.26 (m, 3H), 1.86 (s, 3H),1.84-1.89 (m, 2H), 1.48 (s, 9H) ppm. MS-ApCI: 425 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 3-chloro-2-methylphenylboronic acid | 1.0 mmol, 140 mg | ClC=1C(=C(C=CC1)B(O)O)C | C7H8BClO2
product | tert-butyl (6aS,10aR)-2-(3-chloro-2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC=1C(=C(C=CC1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C)C | C25H29ClN2O2
